US06350875B1
Preparation of Di-p-tolylbutadiyne
In a 100 mL round bottom flask equipped with a gas inlet tube, was placed a Teflon covered magnetic stirring bar, p-tolylacetylene (5.0 g, 43 mmol), methanol 5 mL, pyridine 1.25 mL, and CuCl (0.2 g, 2 mmol). The reaction mixture was vigorously stirred while air was bubbled through it (A. Vogel, Vogel's Textbook of Practical Organic Chemistry, 4th Ed. Longman, London, England, 1978, p 351) Concentrated HCl (2 mL) and saturated sodium chloride (10 mL) was added. The precipitate was isolated by filtration. It was washed with water, dried, and recrystallized from toluene to give 3.45 g, 69% yield, mp 181-183° C. (Lit, 183° C. (Kunckell, Chem. Zentralblatt, 1913, I,1768)). 1H NMR δ: 7.40(d, 4H, J=8.25 Hz), 7.12(d, 4K J=8.25 Hz), 2.35(s, 6H)

reactant | p-tolylacetylene | 43 mmol, 5.0 g | C1(=CC=C(C=C1)C#C)C | C9H8
reactant | methanol | 5 mL | CO | CH4O
catalyst | CuCl | 2 mmol, 0.2 g | Cl[Cu]
solvent | pyridine | 1.25 mL | N1=CC=CC=C1 | C5H5N
product | Di-p-tolylbutadiyne | 69% yield | C1(=CC=C(C=C1)C#CC#CC1=CC=C(C=C1)C)C | C18H14
